US04396627
5. 1-(4-Acetylphenyl) propan-2-one
Chromic acid solution (11.5 ml, made by adding sulphuric acid [7.3 ml] to sodium dichromate [10.0 g] in water [30 ml] and making up to 50 ml with water) was added to a vigorously stirred solution of 1-(4-acetylphenyl) propan-2-ol (3.8 g) in ether (50 ml) keeping between 25°-30°. The mixture was stirred at ambient temperature for 2 hours, the organic phase was separated, washed with sodium bicarbonate solution and with saturated sodium chloride solution. The dried (MgSO4) solution was evaporated and distilled (2.5 g). b.p. 122°-128°/0.1 mm.

reactant | Chromic acid | [Cr](=O)(=O)(O)O
reactant | sulphuric acid | 7.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium dichromate | 10.0 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | 1-(4-acetylphenyl) propan-2-ol | 3.8 g | C(C)(=O)C1=CC=C(C=C1)CC(C)O | C11H14O2
solvent | water | 30 ml | O | H2O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1-(4-Acetylphenyl) propan-2-one | C(C)(=O)C1=CC=C(C=C1)CC(C)=O | C11H12O2
